US06294668B1
(E)-(6R,7R)-7-(2-Bromo-acetylamino)-3-(1-[1-[(3-fluoro-4-hydroxy-phenyl-carbamoyl)-methyl]-pyridin-1-ium-4-ylmethyl]-2-oxo-pyrrolidin-3-ylidene-methyl)-8-oxo-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene-2-carboxylate
To a suspension of 280.0 mg (0.42 mmol) (E)-(6R,7R)-7-amino-3-[1-[1-[(3-fluoro-4-hydroxy-phenylcarbamoyl)-methyl]-pyridin-1-ium-4-ylmethyl]-2-oxo-pyrrolidin-3-ylidenemethyl]-8-oxo-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene-2-carboxylate trifluoroacetate in 4 ml dichloromethane were added 0.37 μl (1.40 mmol) N,O-bis-(trimethylsilyl)-trifluoroacetamide. After a clear solution had formed, 36.8 μl (0.42 mmol) bromoacetyl bromide were added and the reaction mixture was stirred for 3 h. To this solution 25.6 μl (1.42 mmol) water and 25 ml diethyl ether was added. The precipitate was filtered off and washed with diethyl ether.

reactant | (E)-(6R,7R)-7-amino-3-[1-[1-[(3-fluoro-4-hydroxy-phenylcarbamoyl)-methyl]-pyridin-1-ium-4-ylmethyl]-2-oxo-pyrrolidin-3-ylidenemethyl]-8-oxo-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene-2-carboxylate trifluoroacetate | 0.42 mmol, 280.0 mg | FC(C(=O)[O-])(F)F.N[C@H]1[C@H]2SCC(=C(N2C1=O)C(=O)O)/C=C\1/C(N(CC1)CC1=CC=[N+](C=C1)CC(NC1=CC(=C(C=C1)O)F)=O)=O
reactant | N,O-bis-(trimethylsilyl)-trifluoroacetamide | 1.40 mmol, 0.37 μl | C[Si](C)(C)N=C(C(F)(F)F)O[Si](C)(C)C | C8H18F3NOSi2
reactant | bromoacetyl bromide | 0.42 mmol, 36.8 μl | BrCC(=O)Br | C2H2Br2O
reactant | water | O | H2O
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
solvent | diethyl ether | 25 ml | C(C)OCC | C4H10O
product | (E)-(6R,7R)-7-(2-Bromo-acetylamino)-3-(1-[1-[(3-fluoro-4-hydroxy-phenyl-carbamoyl)-methyl]-pyridin-1-ium-4-ylmethyl]-2-oxo-pyrrolidin-3-ylidene-methyl)-8-oxo-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene-2-carboxylate | BrCC(=O)N[C@H]1[C@H]2SCC(=C(N2C1=O)C(=O)[O-])/C=C\1/C(N(CC1)CC1=CC=[N+](C=C1)CC(NC1=CC(=C(C=C1)O)F)=O)=O | C28H25BrFN5O7S
